US06635640B2
2-Methyl-4-[3-(4-methylpiperazin-1-yl)propyl]-5-(2-oxo-4-pyridin-3-yl-1,2-dihydroindol-3-ylidenemethyl)-1H-pyrrole-3-carboxylic Acid Ethyl Ester
A mixture of 4-pyridin-3-yl-1,3-dihydroindol-2-one (42 mg, 0.2 mmol), 5-formyl-2-methyl-4-[3-(4-methylpiperazin-1-yl)-propyl]-1H-pyrrole-3-carboxylic acid ethyl ester (64 mg, 0.2 mmol) and piperidine (0.1 mL) in ethanol was heated in a sealed tube at 70° C. for 5 hours. The reaction was concentrated and the residue was purified by column chromatography to give the title compound.

reactant | 4-pyridin-3-yl-1,3-dihydroindol-2-one | 0.2 mmol, 42 mg | N1=CC(=CC=C1)C1=C2CC(NC2=CC=C1)=O | C13H10N2O
reactant | 5-formyl-2-methyl-4-[3-(4-methylpiperazin-1-yl)-propyl]-1H-pyrrole-3-carboxylic acid ethyl ester | 0.2 mmol, 64 mg | C(C)OC(=O)C1=C(NC(=C1CCCN1CCN(CC1)C)C=O)C | C17H27N3O3
reactant | piperidine | 0.1 mL | N1CCCCC1 | C5H11N
solvent | ethanol | C(C)O | C2H6O
product | 2-Methyl-4-[3-(4-methylpiperazin-1-yl)propyl]-5-(2-oxo-4-pyridin-3-yl-1,2-dihydroindol-3-ylidenemethyl)-1H-pyrrole-3-carboxylic Acid Ethyl Ester | C(C)OC(=O)C1=C(NC(=C1CCCN1CCN(CC1)C)C=C1C(NC2=CC=CC(=C12)C=1C=NC=CC1)=O)C | C30H35N5O3
